US06982348B2
To a solution of 1′-acetonaphthone (28.29 g, 0.1662 mmol) and ethanol (0.5 ml) in diethyl carbonate (200 ml) was added sodium hydride (13.3 g, 60% in oil, 0.332 mol) by small portions and the mixture was stirred at 80° C. for 1.5 hrs. The reaction solution was poured into water, acidified with dilute hydrochloric acid and extracted twice with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1-6:1) to give ethyl (1-naphthoyl)acetate (38.14 g, 95%) as a yellow liquid.

reactant | 1′-acetonaphthone | 0.1662 mmol, 28.29 g | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | sodium hydride | 0.332 mol, 13.3 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl carbonate | 200 ml | C(OCC)(OCC)=O | C5H10O3
solvent | water | O | H2O
product | ethyl (1-naphthoyl)acetate | 38.14 g, 95% | C1(=CC=CC2=CC=CC=C12)C(=O)CC(=O)OCC | C15H14O3
